Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
Interventional radiology replacement of gastric tube - ___

 
History of Present Illness:
___ w/ EtOH cirrhosis (c/b SBP, ascites, HE), non-variceal
UGIB, s/p RNYGB, prior J-tube, current G-tube for enteral
feedings, recently hospitalized with an abdominal wall abscess
and EC fistula at her prior J-tube insertion site who is
presenting with abdominal pain, nausea and emesis.  

She has not had any fevers or chills.  She reports that her
constipation has improved.  She had 4 BMs yesterday, that were
not diarrhea.  She continues to have flatus. She has continued 
to
have dressing changes twice daily, with minimal drain output. 
The color of the drain output was slightly darker than normal
starting this morning.  Normally the output is a yellowish 
color,
and today, the color has become a light greenish color.  She has
been tolerating her tube feeds via her G-tube.  She currently
takes dilaudid twice a day for pain.

 
Past Medical History:
Per prior discharge summary 
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy ___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy ___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
Per prior discharge summary
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION: 
VITALS:97.9 PO 91 / 52 L Lying 83 18 96 RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.
NECK: supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
Systolic
murmur.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: no CVA tenderness
ABDOMEN:soft, mildly tender throughout but mostly on RUQ and RLQ
with firmness, no rebound, no guarding, well healed midline
incision, gtube in place, JP drain with light brown output, No
surrounding erythema or tenderness, no rebound or guarding
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3. 

DISCHARGE:
24 HR Data (last updated ___ @ 955)
    Temp: 97.9 (Tm 99.0), BP: 94/57 (89-103/46-63), HR: 77
(74-81), RR: 17 (___), O2 sat: 94% (93-97), O2 delivery: RA  

GENERAL: slightly jaundiced, NAD, smiling 
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Icteric 
sclera.
Moist mucous membranes, good dentition. Oropharynx is clear.
NECK: supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. II/VI
holosystolic murmur heard best at LSB
LUNGS: Clear to auscultation bilaterally w/ appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: right CVA tenderness
ABDOMEN: soft, non-tender, RLQ with firmness, no rebound, no
guarding, well healed midline incision, gtube in place, JP drain
with light brown output with some surrounding erythema and
purulence
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. AO x 3 with fluctuating attention. No
asterixis.

 
Pertinent Results:
___ 05:15AM BLOOD WBC-6.0 RBC-2.13* Hgb-7.6* Hct-22.7* 
MCV-107* MCH-35.7* MCHC-33.5 RDW-18.1* RDWSD-70.0* Plt Ct-70*
___ 09:00AM BLOOD Neuts-80.0* Lymphs-7.2* Monos-12.0 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-7.34* AbsLymp-0.66* 
AbsMono-1.10* AbsEos-0.03* AbsBaso-0.02
___ 05:15AM BLOOD Plt Ct-70*
___ 05:15AM BLOOD ___
___ 05:50AM BLOOD ___ 05:15AM BLOOD Glucose-81 UreaN-23* Creat-1.0 Na-136 
K-3.7 Cl-94* HCO3-25 AnGap-17
___ 05:45AM BLOOD ALT-17 AST-62* AlkPhos-118* TotBili-2.3*
___ 10:50AM BLOOD Lipase-36
___ 05:15AM BLOOD Calcium-8.3* Phos-3.0 Mg-2.2
___ 05:41AM BLOOD Hapto-46
___ 04:30PM BLOOD Ethanol-NEG
___ 07:12AM BLOOD ___ pO2-175* pCO2-28* pH-7.36 
calTCO2-16* Base XS--7 Comment-GREEN TOP
___ 07:12AM BLOOD Lactate-2.3*
___ 06:31AM BLOOD freeCa-1.05*
 
Brief Hospital Course:
___ w/ EtOH cirrhosis (c/b SBP, ascites, HE), non-variceal UGIB, 
s/p RNYGB, current G-tube for enteral feedings, recently 
hospitalized with an abdominal wall abscess and EC fistula at 
her prior J-tube insertion site with a current drain tube who is 
presented with abdominal pain, nausea and emesis likely due to 
recurrent ileus or SBO, complicated by ATN and encephalopathy. 
Discharge delayed by recurrent clogging of G tube, replaced by 
___ on ___. 

#) Intermittent SBO
Pain and nausea have been intermittent throughout 
hospitalization. Ileus may be contributing given imaging notable 
for multiple dilated fluid-filled small bowel loops; no 
transition point or decompressed loops identified to suggest 
partial bowel obstruction although it may be spontaneously 
resolving and returning. Low suspicion for SBP on presentation 
given already on ciprofloxacin prophylaxis, lack of 
leukocytosis, and afebrile. No tapable pocket on admission. 
Transplant surgery felt unlikely related to enterocutaneous 
fistulas. Most likely diagnosis at is intermittent SBO. Severe 
pain initially managed with dilaudid, zofran but developed 
encephalopathy and NG tube was placed to suction with 
improvement in pain, N/V and encephalopathy. Pain managed well 
on tylenol once BMs returned, and NG was discontinued. Educated 
patient on reducing dilaudid use at home to prevent 
constipation. Added simethicone to reduce bloating. 

# G tube malfunction
Patient had intermittent G-tube clogging throughout 
hospitalization, which was associated with abdominal pain, 
nausea, and vomiting. On ___, she had her G-tube replaced by 
___, with improvement in her abdominal symptoms. Prior to 
discharge, she was tolerating tube feeds through the G-tube 
without significant abdominal symptoms.

#) ATN
Patient recently had kidney injury during prior hospitalization 
in the setting of contrast-induced nephropathy and hypovolemia. 
She presented with Cr 1.4 (from ___ ~0.8), up to 4.8 with 
associated hyperkalemia, hyperphosphatemia, hyponatremia. Renal 
was consulted, felt the etiology was likely ATN due to contrast 
induced nephropathy. He received insulin/dextrose/calcium for 
hyperkalemia x 2, before kidney function improved. Discharge Cr 
was 1.0.

#) Encephalopathy
Encephalopathy during this hospitalization likely due to 
decreased bowel movements i/s/o probable partial vs full SBO, 
with contribution of acute renal failure as well (now resolved). 
Much improved with regular BMs (lactulose NG and enemas) and 
improvement in renal function.

#) Thrombocytopenia
Downtrending from admission ~100 to a low of 52, on discharge up 
to 70. Chronic, due to cirrhosis.

# Anemia # H/o UGIB
Chronic anemia and hemoglobin between ___. Hgb dipped and 
received 2u pRBC ___, stable since.

#) Asymptomatic bacteriuria: 
Urine culture grew enterococcus, likely contamination due to 
bowel regiment. Patient asymptomatic and was not treated. 

#) ETOH CIRRHOSIS
Followed by Dr. ___. Last drink ___. CP B-C. MELD-Na 23 on 
admission. 
- HE: lactulose and rifaximin through PEG
- SBP: cont home ciprofloxacin
- Ascites: torsemide (held during bp dips) 
- Varices: EGD ___ with diffuse friability of stomach seen 
with oozing, no intervenable lesions, no varices. 
- Coagulopathy: secondary to cirrhosis, received a trial of 
vitamin K during recent hospitalization with only limited 
improvement in INR
- Transplant w/u: per previous documentation, not a candidate 
due to comorbidities

CHRONIC ISSUES: seizure, GERD
==============
no changes

=================TRANSITIONAL ISSUES===========
-STARTED simethicone 80mg PRN for abdominal distension/pain 
-educated patient on reducing dilaudid use to prevent 
constipation 
[] hepatology f/u
[] transplant surg f/u

Full code
Proxy name: ___ 
Relationship: Mother, Father Phone: ___ 
Date on form: ___ 
Comments: Pt. has named her boyfriend ___ as her 
alternative health care proxy. ___ can be reached at 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
2. Bisacodyl ___ mg PO DAILY:PRN Constipation 
3. Ciprofloxacin HCl 500 mg PO DAILY 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Lactulose 30 mL PO Q6H 
7. LevETIRAcetam Oral Solution 1000 mg PO BID 
8. Metoclopramide 5 mg PO Q6H 
9. Midodrine 10 mg PO TID 
10. Multivitamins 1 TAB PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Rifaximin 550 mg PO BID 
14. Thiamine 100 mg PO DAILY 
15. Torsemide 20 mg PO DAILY 
16. Vitamin D ___ UNIT PO 1X/WEEK (___) 
17. TraMADol 50 mg PO BID 
18. HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 
19. Neutra-Phos 2 PKT PO TID 

 
Discharge Medications:
1.  Simethicone 40-80 mg PO QID:PRN bloating 
RX *simethicone 80 mg 1 tab by mouth four times a day Disp #*100 
Tablet Refills:*3 
2.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
3.  Bisacodyl ___ mg PO DAILY:PRN Constipation  
4.  Ciprofloxacin HCl 500 mg PO DAILY  
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
8.  Lactulose 30 mL PO Q6H  
9.  LevETIRAcetam Oral Solution 1000 mg PO BID  
10.  Metoclopramide 5 mg PO Q6H  
11.  Midodrine 10 mg PO TID  
12.  Multivitamins 1 TAB PO DAILY  
13.  Neutra-Phos 2 PKT PO TID  
14.  Omeprazole 40 mg PO DAILY  
15.  Polyethylene Glycol 17 g PO DAILY  
16.  Rifaximin 550 mg PO BID  
17.  Thiamine 100 mg PO DAILY  
18.  Torsemide 20 mg PO DAILY  
19.  TraMADol 50 mg PO BID  
20.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: small bowel obstruction, acute tubular necrosis

Secondary: hepatic encephalopathy, alcoholic cirrhosis, obesity 
treated with gastric bypass complicated by abscess requiring 
drainage now with gastric and jejunal tubes, epileptiform 
seizures, gastroesophageal reflux disease, depression/anxiety  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
  MEDICINE Discharge Worksheet  
 ================================================  
  Dear ___,  
  It was a pleasure taking part in your care here at ___!  

 Why was I admitted to the hospital?  
  - You were admitted to ___ for abdominal pain, nausea, and 
vomiting likely due to an obstruction in your intestinal system 
that self-resolved. You also had kidney damage likely due to the 
combination of your recent post CT-contrast kidney injury and 
the severe vomiting you experienced before hospitalization 
leading to reduced blood flow to your kidneys. 

 What was done for me while I was in the hospital?  
  - You received a thorough investigation for the cause of your 
abdominal pain, nausea, vomiting, and kidney damage including 
urine and blood tests, abdominal Xray, electrocardiogram for 
your heart electrical activity. You also received many 
medications to treat your kidney damage while managing your 
existing conditions. Your G tube was intermittently clogged so 
it was replaced. When your kidney function returned and you were 
able to eat enough nutrition without vomiting, you were 
discharged from the hospital. 

 What should I do when I leave the hospital?  
  - Weigh yourself every day and call your hepatologist if your 
weight changes by 3 pounds or more in one day
  - Schedule an appointment to follow-up with your hepatologist
  - Call ___ at ___ (ask to have ___ fellow on call 
paged) if you have any trouble with your G tube

 Sincerely,  
  Your ___ Care Team  

 
Followup Instructions:
___